US08304036B2
2.40 g (5.72 mmol) of 2-but-1-enyl-5-(4′-ethyl-2,3-difluorobiphenyl-4-yl)-selenophene are hydrogenated in 25 ml of ethyl acetate, in the presence of Pd/C (5% of Pd) at atmospheric pressure and RT. The reaction soln. is filtered and concentrated to dryness, and the crude product is purified by column chromatography (SiO2, n-heptane:toluene=9:1). The further purification is carried out by recrystallisation from ethanol and n-heptane. 2-Butyl-5-(4′-ethyl-2,3-difluorobiphenyl-4-yl)selenophene is obtained as a colourless solid (m.p. 73° C.).

reactant | 2-but-1-enyl-5-(4′-ethyl-2,3-difluorobiphenyl-4-yl)-selenophene | 5.72 mmol, 2.40 g | C(=CCC)C=1[Se]C(=CC1)C1=C(C(=C(C=C1)C1=CC=C(C=C1)CC)F)F | C22H20F2Se
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | 2-Butyl-5-(4′-ethyl-2,3-difluorobiphenyl-4-yl)selenophene | C(CCC)C=1[Se]C(=CC1)C1=C(C(=C(C=C1)C1=CC=C(C=C1)CC)F)F | C22H22F2Se
